US04752646
A mixture of 84.3 g (0.337 mole) of rac.-2,6-dimethoxy-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran, 370 ml of acetone, 300 ml of water, and 2.5 ml of conc. hydrochloric acid was distilled until the distillate temperature reached 90° C. After being cooled, the mixture was diluted with water and extracted three times with ether. The ether extracts were combined, washed with saturated brine, dried (MgSO4), filtered, and concentrated in vacuo. The residue was recrystallized from aqueous acetone giving rac.-6-methoxy-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-2-ol as an off-white solid, in crops of 34.6 g (43.5%) and 11.1 g (13.9%).

reactant | rac.-2,6-dimethoxy-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran | 0.337 mole, 84.3 g | COC1(OC2=C(CC1)C(=C(C(=C2C)C)OC)C)C | C15H22O3
reactant | acetone | 370 ml | CC(=O)C | C3H6O
reactant | hydrochloric acid | 2.5 ml | Cl | ClH
solvent | water | 300 ml | O | H2O
product | rac.-6-methoxy-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-2-ol | COC=1C(=C(C2=C(CCC(O2)(O)C)C1C)C)C | C14H20O3
